US08802713B2
9.2 g of 2-fluoro-4-methyl-5-mercaptoaniline disclosed in WO2006/043635 was dissolved in 70 mL of water, and 9.7 g of potassium carbonate and 8.3 g of iodomethane were added under cooling with ice, followed by stirring at room temperature for 2 hours. The formed crystals were collected by filtration and washed with water to obtain 10.0 g of 2-fluoro-4-methyl-5-methylthioaniline.

reactant | 2-fluoro-4-methyl-5-mercaptoaniline | 9.2 g | FC1=C(N)C=C(C(=C1)C)S | C7H8FNS
reactant | potassium carbonate | 9.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 8.3 g | IC | CH3I
solvent | water | 70 mL | O | H2O
product | 2-fluoro-4-methyl-5-methylthioaniline | 10.0 g | FC1=C(N)C=C(C(=C1)C)SC | C8H10FNS
